US05256675
A mixture of 2-acetylamino-5-(1-methyl-1H-tetrazol-5-ylthio)thiazole (2.0 g) in a mixture of ethanol (20 ml) and aqueous 6N-hydrochloric acid (5 ml) was refluxed for 4 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was adjusted to pH 8 using aqueous sodium bicarbonate under ice cooling. The precipitates were collected by filtration, washed with water and the solid was recrystallized from ethanol to give 2-amino-5-(1-methyl-1H-tetrazol-5-ylthio)thiazole (0.81 g, yield: 48.5%). mp: 186°-188° C. (dec.)

reactant | 2-acetylamino-5-(1-methyl-1H-tetrazol-5-ylthio)thiazole | 2.0 g | C(C)(=O)NC=1SC(=CN1)SC1=NN=NN1C | C7H8N6OS2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-amino-5-(1-methyl-1H-tetrazol-5-ylthio)thiazole | 0.81 g, yield: 48.5% | NC=1SC(=CN1)SC1=NN=NN1C | C5H6N6S2
